US04565816
4-[4-(2,3-Dimethyl-pyrido[2,3-b]pyrazin-6-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone (compound Ib)
9 g 4-[4-(2,3-Diamino-pyridin-6-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone and 2.6 g butane-2,3-dione in 250 ml methanol are stirred under reflux for 1 hour. The solvent is evaporated. The residue is dissolved in hot ethyl acetate and treated with active charcoal, filtered and cooled to give the title compound, m.p. 155°-156°.

reactant | 4-[4-(2,3-Diamino-pyridin-6-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone | 9 g | NC1=NC(=CC=C1N)N1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | C19H24FN5O
reactant | butane-2,3-dione | 2.6 g | CC(C(C)=O)=O | C4H6O2
solvent | methanol | 250 ml | CO | CH4O
product | 4-[4-(2,3-Dimethyl-pyrido[2,3-b]pyrazin-6-yl)-1-piperazinyl]-1-(4-fluorophenyl)-1-butanone | CC=1N=C2C(=NC1C)N=C(C=C2)N2CCN(CC2)CCCC(=O)C2=CC=C(C=C2)F | C23H26FN5O
